US05506219
A solution of 3-(2,2-dibromoethenyl)-2-(4-fluorophenyl)-4-(1-methylethyl)quinoline (2.563 gm, 5.71 mmol) in dry THF (30 ml) was cooled to -78° C. and treated with n-BuLi (1.5M in hexane, 8.0 ml, 12 mmol) over a 5 minute period. After stirring at -78° C. for 1.25 hours, the brown solution was quenched with saturated NH4Cl, warmed to room temperature, diluted with H2O, and extracted 2× with Et2O. The combined Et2O extracts were washed with brine, dried (Na2SO4), filtered and stripped to give a yellow solid. The solid was recrystallized from hot hexane to afford analytically pure 3-ethynyl-2-(4-fluorophenyl)-4-(1-methylethyl)quinoline as off-white crystals (1.205 gm, 73%).

reactant | 3-(2,2-dibromoethenyl)-2-(4-fluorophenyl)-4-(1-methylethyl)quinoline | 5.71 mmol, 2.563 gm | BrC(=CC=1C(=NC2=CC=CC=C2C1C(C)C)C1=CC=C(C=C1)F)Br | C20H16Br2FN
reactant | n-BuLi | 12 mmol, 1.5M, 8.0 ml | [Li]CCCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-ethynyl-2-(4-fluorophenyl)-4-(1-methylethyl)quinoline | 1.205 gm, 73% | C(#C)C=1C(=NC2=CC=CC=C2C1C(C)C)C1=CC=C(C=C1)F | C20H16FN
